US04470842
26.6 g (0.22 mol) of allyl bromide were added to a solution of 43.6 g (0.2 mol) of 4-amino-6-fluoro-tert.-butyl-3-mercapto-1,2,4-triazin-5-one in 200 ml of 1 N sodium hydroxide solution at room temperature. The reaction mixture was stirred for approximately 20 hours at room temperature, the organic phase was then taken up in chloroform, and the solution was washed with three times 150 ml of 0.1 N sodium hydroxide solution, dried over sodium sulphate, filtered and concentrated. The oily residue was degassed at 50° C./0.05 mbar, and recrystallized from ethyl acetate/petroleum ether. 20.8 g (40% of theory) of 3-allylthio-4-amino-6-fluoro-tert.-butyl-1,2,4-triazin-5-one of melting point 75° to 74° C. were obtained.

reactant | allyl bromide | 0.22 mol, 26.6 g | C(C=C)Br | C3H5Br
reactant | 4-amino-6-fluoro-tert.-butyl-3-mercapto-1,2,4-triazin-5-one | 0.2 mol, 43.6 g | NN1C(=NN(C(C1=O)F)C(C)(C)C)S | C7H13FN4OS
solvent | sodium hydroxide | 1 N, 200 ml | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-allylthio-4-amino-6-fluoro-tert.-butyl-1,2,4-triazin-5-one | 20.8 g, 40% | C(C=C)SC1=NN(C(C(N1N)=O)F)C(C)(C)C | C10H17FN4OS
